US07268159B2
A mixture of 3-bromo-1H-indolecarboxylic acid ethyl ester (0.50 g, 1.87 mmol), phenylboronic acid (0.27 g, 2.25 mmol), 2 M aqueous sodium carbonate (8 mL), tetrakis(triphenylphosphine)palladium (0) (0.20 g, 0.17 mmol) in ethanol (16 mL) and toluene (30 ml) was heated at 65° C. for 16 h and then cooled. The reaction mixture was diluted with 1 N hydrochloric acid and then extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate and concentrated. Flash silica gel chromatography using ethyl acetate/hexane as elutant gave 0.34 g (68%) of 3-phenyl-1H-indolecarboxylic acid ethyl ester as a pink solid: 1H NMR (DMSO-d4) δ 1.18 (t, J=7.2 Hz, 3H), 4.22 (q, J=7.2 Hz, 2H), 7.07-7.11 (m, 1H), 7.29-7.33 (m, 1H) 7.45 (dd, J=8.3, 0.8 Hz, 1H), 7.48-7.50 (m, 5H), 7.50 (dd, J=8.3, 0.8 Hz, 1H), 11.90 (br s, 1H); MS (ESI) m/z 266 (MH+); 264 ([M−H]−).

reactant | 3-bromo-1H-indolecarboxylic acid ethyl ester | 1.87 mmol, 0.50 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1Br | C11H10BrNO2
reactant | phenylboronic acid | 2.25 mmol, 0.27 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 16 mL | C(C)O | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | 1 N | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium | 0.17 mmol, 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-phenyl-1H-indolecarboxylic acid ethyl ester | 0.34 g, 68% | C(C)OC(=O)C=1NC2=CC=CC=C2C1C1=CC=CC=C1 | C17H15NO2
